US07691882B2
(2-Amino-6-methyl-pyridin-3-yl)-methanol
To a tetrahydrofuran (12 mL) solution of lithium aluminum hydride (706 mg, 14.9 mmol, purity: 80%) was added 2-amino-6-methyl-nicotinic acid ethyl ester (670 mg, 3.72 mmol) described in Manufacturing Example 170-1-2 at 0° C., which was stirred for 30 minutes at room temperature. Water (706 μL), a 5 N sodium hydroxide aqueous solution (706 μL), and water (2.12 mL) were added to the reaction mixture in that order at 0° C., which was filtered through a Celite pad. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the title compound (379 mg, 74%).

reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | 14.9 mmol, 706 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-6-methyl-nicotinic acid ethyl ester | 3.72 mmol, 670 mg | C(C)OC(C1=C(N=C(C=C1)C)N)=O | C9H12N2O2
reactant | sodium hydroxide | 5 N, 706 μL | [OH-].[Na+]
solvent | water | 2.12 mL | O | H2O
solvent | Water | 706 μL | O | H2O
product | (2-Amino-6-methyl-pyridin-3-yl)-methanol | 379 mg, 74% | NC1=NC(=CC=C1CO)C | C7H10N2O
